Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Ambien
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Ms ___ is a ___ with history of HTN, HLD who presents s/p 
fall on ___.  She had acute R sided rib/back pain after her 
fall and went to her PCP to be seen. She was given NSAIDs and 
heat packs and discharged home. Ms ___ notes that she had 
___ pain that persisted and called her PCP back who suggested
she come in to the ED for evaluation.  CT torso was performed 
that revealed R posterior ___ and 10th rib fractures. 

Upon evaluation, Ms ___ says her pain has improved 
considerably after morphine. She is tender in the R back without 
spinous tenderness. She denies sob, tachypnea, palpitations, 
dizziness, or loss of consciousness leading to the fall.  

 
Past Medical History:
PMH: HTN, hypothyroidism, HLD

PSH: cataract surgery

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

Vitals: 97.9  52  120/42  16 95% RA 
Gen: NAD, A&Ox3
HEENT: NC/AT, EOMI
CV: RRR
Pulm: easy work of breathing on RA, normal chest rise, tendere 
to
palpation in R back
Abd: soft, nontender, nondistended, no palpable masses or 
hernias
Ext: warm and well perfused

Discharge Physical Exam:
VS: T: 97.7 PO BP: 131/71 HR: 63 RR: 16 O2: 94% Ra 
GEN: A+Ox3, NAD
HEENT: atraumatic
CV: RRR
PULM: CTA b/l
CHEST: right back pain to palpation c/w rib fractures.  No 
crepitus, symmetric expansion. 
ABD: soft, non-distended, non-tender 
EXT: no edema b/l
 
Pertinent Results:
IMAGING:

___: CXR:
Bibasilar patchy and linear opacities, likely atelectasis.  No 
displaced rib fractures identified, but please note that the 
sensitivity of chest 
radiographs in the detection of a rib fracture is limited. 

___: CT Chest:
1. Acute nondisplaced right posterior eighth and tenth rib 
fractures.  No 
pneumothorax. 
2. No other acute sequela of trauma in the chest, abdomen or 
pelvis. 
3. Heterogeneous 1 cm lesion at the lower pole of the left 
kidney suspicious 
for an enhancing mass, multiphasic CT or MRI is suggested. 
4. The left kidney is otherwise notable for atrophy likely 
secondary to renal artery stenosis. 
5. Extensive atherosclerosis with secondary severe narrowing in 
the right 
common iliac artery. 
  
RECOMMENDATION(S):  Contrast-enhanced, multiphasic renal CT or 
MRI. 

___: CT Abdomen/Pelvis:
1. Enhancing 1.1 cm mass lower pole left kidney suspicious for 
primary renal cell carcinoma. 
2. Vicarious excretion of contrast within the and residual 
contrast in the 
right renal collecting system on pre contrast imaging concerning 
for overall poor renal function.  Correlate clinically. 
3. Additional chronic changes as above. 

LABS:

___ 04:06AM   GLUCOSE-92 UREA N-15 CREAT-1.1 SODIUM-138 
POTASSIUM-3.3* CHLORIDE-96 TOTAL CO2-31 ANION GAP-11
___ 04:06AM   CALCIUM-9.4 PHOSPHATE-4.1 MAGNESIUM-1.9
___ 04:06AM   WBC-5.0 RBC-4.24 HGB-12.3 HCT-37.5 MCV-88 
MCH-29.0 MCHC-32.8 RDW-13.2 RDWSD-42.6
___ 04:06AM   PLT COUNT-244
___ 04:06AM   ___ PTT-33.0 ___
___ 05:19PM   LACTATE-1.6
___ 03:10PM   GLUCOSE-115* UREA N-19 CREAT-1.1 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-94* TOTAL CO2-31 ANION GAP-14
___ 03:10PM   ALT(SGPT)-15 AST(SGOT)-26 ALK PHOS-74 TOT 
BILI-0.5
___ 03:10PM   ALBUMIN-4.5
___ 03:10PM   WBC-5.4 RBC-4.79 HGB-14.0 HCT-43.0 MCV-90 
MCH-29.2 MCHC-32.6 RDW-13.0 RDWSD-42.9
___ 03:10PM   NEUTS-61.9 ___ MONOS-10.8 EOS-1.1 
BASOS-0.2 IM ___ AbsNeut-3.37 AbsLymp-1.39 AbsMono-0.59 
AbsEos-0.06 AbsBaso-0.01
___ 03:10PM   ___ PTT-36.4 ___
___ 03:10PM   PLT COUNT-266
 
Brief Hospital Course:
Ms ___ is a ___ with history of HTN, HLD who presents s/p 
fall on ___.  She had acute, persistent R sided rib/back pain 
after her fall and she ultimately came to the ED for evaluation. 
 She received intravenous morphine with good effect. 
CT torso was performed that revealed R posterior ___ and ___ 
rib fractures.  The CT also showed a heterogeneous 1 cm lesion 
at the lower pole of the left kidney
suspicious for an enhancing mass and multiphasic CT or MRI was 
suggested.  Contrast enhanced CT abdomen/pelvis again showed a 
1.0 x 1.0 x 0.9 cm mass within the lower pole of the left kidney 
suspicious for a primary renal cell carcinoma. This finding was 
discussed with the patient. 

The patient was admitted to the Acute Care Surgery/Trauma 
service for pain control and pulmonary toilet.  She was 
instructed on incentive spirometry use. The patient remained 
stable from a pulmonary standpoint; vital signs were routinely 
monitored. Good pulmonary toilet, early ambulation and incentive 
spirometry were encouraged throughout hospitalization. 

Pain was managed with acetaminophen, oxycodone and lidocaine 
patches.  Physical Therapy evaluated the patient and recommended 
discharge to home. At the time of discharge, the patient was 
doing well, afebrile and hemodynamically stable.  The patient 
was tolerating a diet, ambulating, voiding without assistance, 
and pain was well controlled.  The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO ASDIR 
4. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Lidocaine 5% Patch 1 PTCH TD QPM 
Apply for 12 hours, then remove and leave off for 12 hours. 
RX *lidocaine 5 % Apply to area of rib pain QPM Disp #*15 Patch 
Refills:*1 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
Wean as tolerated. Patient may request partial fill.  
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
Hold for loose stool.  ___ discontinue when no longer taking 
opioid pain medication.  
RX *polyethylene glycol 3350 17 gram 1 dose by mouth once a day 
Disp #*14 Packet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation   
6.  amLODIPine 5 mg PO DAILY  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Levothyroxine Sodium 50 mcg PO ASDIR  
9.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Right posterior ___ and 10th rib fractures.

Secondary:
-1.0 x 1.0 x 0.9 cm mass within the lower pole of the left 
kidney suspicious for a primary renal cell carcinoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a fall and were found to 
have two right-sided rib fractures on CT scan.  The imaging also 
incidentally found a lesion at the lower pole of the left 
kidney.  A follow-up CT with contrast was obtained which 
confirmed a mass at the pole of the left kidney which is 
concerning for possible renal cell carcinoma (A type of kidney 
cancer that starts in the lining of small tubes in the kidney).  
This diagnosis is not yet confirmed and you will need to 
follow-up with outpatient Urology and your Primary Care Provider 
for further workup. 

You were evaluated by Physical Therapy and are safe for 
discharge to home.  Please follow the discharge instructions 
below to ensure a safe recovery:

* Your injury caused two right-sided rib fractures which can 
cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 10 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.

*If the prescribed lidocaine patches (5% lidocaine) are too 
expensive, you may instead try Salonpas patches (4% lidocaine) 
which are a less expensive, over-the-counter alternative. 
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___